US08247431B2
Step 3: Preparation of 3-aminoisonicotinic acid
3-tert-Butoxycarbonylamino-isonicotinic acid (450 mg) was dissolved in methanol (8 mL) and 6N hydrochloric acid (5 mL) was added to the solution. The resulting suspension was stirred under reflux for 2.5 hours, cooled to room temperature and washed 3× with chloroform. The aqueous layer was adjusted to pH-14 by addition of 2N sodium hydroxide solution, washed 3× with chloroform and adjusted again to pH-3 by addition of 2N hydrochloric acid. The aqueous layer was concentrated on a rotary evaporator to complete dryness and the residue was extracted with hot ethanol. The ethanol extract was filtered to remove insoluble material and concentrated in vacuum to afford 262 mg of the title compound of formula

reactant | 3-tert-Butoxycarbonylamino-isonicotinic acid | 450 mg | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=CN=C1 | C11H14N2O4
reactant | hydrochloric acid | 6N, 5 mL | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
product | 3-aminoisonicotinic acid | 262 mg | NC1=C(C(=O)O)C=CN=C1 | C6H6N2O2
